US08895571B2
Step C: 2-[(1S)-2-amino-1-(3-fluorobenzyl)ethyl]-6-(4-chloro-1-methyl-1H-pyrazol-5-yl)-1,2-dihydro-3H-pyrrolo[3,4-c]pyridin-3-one
A mixture of 1-methyl-4-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (19.4 mg, 0.0800 mmol), bis(tri-t-butylphosphine)palladium (3.4 mg, 0.0067 mmol), 2-[(2S)-2-(6-chloro-3-oxo-1,3-dihydro-2H-pyrrolo[3,4-c]pyridin-2-yl)-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione (30.0 mg, 0.0667 mmol) and N,N-diisopropylethylamine (34.8 μL, 0.200 mmol) in 1,4-dioxane (1 mL) and water (50 μL) was microwaved at 110° C. for 15 minutes. Filtered through a pad of celite and concentrated, the residue was purified by combi-flash chromatography eluted with EtOAc/hexane (50-100%). To the purified intermediate was added methanol (0.4 mL), tetrahydrofuran (0.4 mL) and hydrazine (0.2 mL, 6 mmol). The solution was stirred at room temperature overnight. Purification by prep.—HPLC (pH=10) gave the desired product as white solid. LC-MS found: 400.1 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ ppm: 8.95 (s, 1H), 7.97 (s, 1H), 7.72 (s, 1H), 7.23 (m, 1H), 6.98 (m, 2H), 6.95 (dt, J1=9.30 Hz, J2=1.80 Hz, 1H), 4.59 (s, 2H), 4.41 (m, 1H), 3.93 (s, 3H), 3.02 (dd, J1=14.40 Hz, J2=5.10 Hz, 1H), 2.89 (m, 1H), 2.81 (d, J=6.60 Hz, 2H).

reactant | 1-methyl-4-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.0800 mmol, 19.4 mg | CN1N=CC(=C1B1OC(C(O1)(C)C)(C)C)Cl | C10H16BClN2O2
reactant | 2-[(2S)-2-(6-chloro-3-oxo-1,3-dihydro-2H-pyrrolo[3,4-c]pyridin-2-yl)-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione | 0.0667 mmol, 30.0 mg | ClC1=CC2=C(C=N1)C(N(C2)[C@H](CN2C(C1=CC=CC=C1C2=O)=O)CC2=CC(=CC=C2)F)=O | C24H17ClFN3O3
reactant | N,N-diisopropylethylamine | 0.200 mmol, 34.8 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrazine | 6 mmol, 0.2 mL | NN | H4N2
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 μL | O | H2O
catalyst | bis(tri-t-butylphosphine)palladium | 0.0067 mmol, 3.4 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | tetrahydrofuran | 0.4 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.4 mL | CO | CH4O
product | 2-[(1S)-2-amino-1-(3-fluorobenzyl)ethyl]-6-(4-chloro-1-methyl-1H-pyrazol-5-yl)-1,2-dihydro-3H-pyrrolo[3,4-c]pyridin-3-one | NC[C@H](CC1=CC(=CC=C1)F)N1C(C=2C=NC(=CC2C1)C1=C(C=NN1C)Cl)=O | C20H19ClFN5O
